US06664259B2
To a solution of Tetrahydro-furan-3-carboxylic acid (0.093 mL, 1.0 mmol) in DMF (0.5 mL) was added DPPA (0.25 mL, 1.2 mmol) and TEA (0.25 mL, 1.8 mmol) and the reaction heated at 70° C. After 18 hrs, 3-Amino-6-chloro-2-hydroxy-benzenesulfonamide (1.0 mmol) was added and the reaction heated at 70° C. After 18 hrs, the reaction mixture was quenched with water and extracted with ethyl acetate. The organic layers were dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The crude residue was purified via HPLC to give 18 mg (5%) of N-[4-chloro-2-hydroxy-3-sulfamylphenyl]-N′-(3-tetrahydrofuryl)urea. LC-MS (m/z) 336 (M+).

reactant | Tetrahydro-furan-3-carboxylic acid | 1.0 mmol, 0.093 mL | O1CC(CC1)C(=O)O | C5H8O3
reactant | DPPA | 1.2 mmol, 0.25 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | 3-Amino-6-chloro-2-hydroxy-benzenesulfonamide | 1.0 mmol | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-[4-chloro-2-hydroxy-3-sulfamylphenyl]-N′-(3-tetrahydrofuryl)urea | 18 mg, 5% | ClC1=C(C(=C(C=C1)NC(=O)NC1COCC1)O)S(N)(=O)=O | C11H14ClN3O5S
